US04579865
7-Hydroxyindole
Reaction of 2-nitro-3-benzyloxyphenylpyruvic acid (2 g.) with 10% palladium on carbon (2 g.) in acetic acid under hydrogen atmosphere is complete in 30 minutes. The mixture is filtered and the solvent is removed in vacuo. The remaining material is dissolved in glycerol and heated at 220° C. for 20 minutes. The desired product is obtained by sublimation under high vacuum.

reactant | 2-nitro-3-benzyloxyphenylpyruvic acid | 2 g | [N+](=O)([O-])C1=C(C=CC=C1OCC1=CC=CC=C1)CC(C(=O)O)=O | C16H13NO6
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Hydroxyindole | OC=1C=CC=C2C=CNC12 | C8H7NO
